US06897306B2
{[(2-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-5-methyl-1,3-oxazol-4-yl)carbonyl]amino}acetic Acid
A solution ({[2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-5-methyl-1,3-oxazol-4-yl]carbonyl}amino)acetic acid (Preparation 100) (60 mg, 0.12 mmol) in ethanol (3 ml) was treated with ammonium formate (78 mg, 1.23 mmol) and palladium hydroxide (20 mg) and heated at 43° C., under a nitrogen atmosphere for 4 hours. The reaction mixture was filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of 99:1:0.1 (dichloromethane:methanol:acetic acid) gradually changing to 90:10:1 (dichloromethane:methanol:acetic acid) to afford the title compound as a white solid (17 mg).

reactant | ({[2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-5-methyl-1,3-oxazol-4-yl]carbonyl}amino)acetic acid | 0.12 mmol, 60 mg | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC(=C(N1)C(=O)NCC(=O)O)C)=O | C26H35N3O6
reactant | ammonium formate | 1.23 mmol, 78 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 20 mg | [OH-].[Pd+2].[OH-]
product | {[(2-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-5-methyl-1,3-oxazol-4-yl)carbonyl]amino}acetic Acid | 17 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C=1OC(=C(N1)C(=O)NCC(=O)O)C | C19H29N3O6
